US07129238B2
(RS)-(3,5-Diethoxy-2-fluoro-phenyl)-methoxy-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-N-(4-cyano-benzyl)-2-(3,5-diethoxy-2-fluoro-phenyl)-2-methoxy-acetamide. Light yellow oil. MS 387.3 ([M+H]+)

reactant | (RS)-(3,5-Diethoxy-2-fluoro-phenyl)-methoxy-acetic acid | C(C)OC=1C(=C(C=C(C1)OCC)C(C(=O)O)OC)F | C13H17FO5
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-N-(4-cyano-benzyl)-2-(3,5-diethoxy-2-fluoro-phenyl)-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=C(C(=CC(=C2)OCC)OCC)F)=O)C=C1 | C21H23FN2O4
